US07598285B2
Step B 2-(6-Chloro-2-naphthyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.
2-Bromo-6-chloronaphthalene (205 mg, 0.849 mmol), bis(pinacolato)diboron (432 mg, 1.70 mmol), and potassium acetate (250 mg, 2.55 mmol) were dissolved in 12 mL of methyl sulfoxide. The mixture was de-oxygenated by four vacuum-nitrogen fill cycles, and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (70 mg, 0.085 mmol) added. The resultant mixture was heated at 80° C. under a nitrogen atmosphere for 3 h then was allowed to sit at ambient temperature for 16 h. The mixture was diluted with ethyl acetate, and washed successively with two portions of water and one portion of brine. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and the residue purified by flash column chromatography to provide the title compound. 1H NMR (500 MHz, DMSO) δ: 8.34 (s, 1H); 8.10 (m, 2H); 7.89 (d, J=8.3 Hz, 1H), 7.76 (d, J=8.3 Hz, 1H); 7.54 (dd, J=1.8, 8.7 Hz, 1H); 1.33 (br s, 12H).

reactant | 2-Bromo-6-chloronaphthalene | 0.849 mmol, 205 mg | BrC1=CC2=CC=C(C=C2C=C1)Cl | C10H6BrCl
reactant | bis(pinacolato)diboron | 1.70 mmol, 432 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.55 mmol, 250 mg | C(C)(=O)[O-].[K+]
solvent | methyl sulfoxide | 12 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.085 mmol, 70 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-Chloro-2-naphthyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC=1C=C2C=CC(=CC2=CC1)B1OC(C(O1)(C)C)(C)C | C16H18BClO2
